US06776996B2
A mixture of V8vEGTDEL polyhedral inclusion bodies (13.0 g of technical material, 6.0 g of PIBs, about 1.27×1011 PIBs/gram, mean PIB size about 2.5 μm) and ammonium hydroxide solution (15.0 g, pH 9.5) is stirred for 15 minutes, treated with REAX® 85A (0.18 g, a sodium lignosulfonate available from Westvaco, Charleston Heights, S.C.), stirred for 15 minutes, treated with Indulin® C (12.0 g of a 2% solution, pH 11, a sodium lignate available from Westvaco), stirred for one hour, and adjusted slowly to pH 4.5 with dilute sulfuric acid over 2.5 hours. After stirring for 45 minutes, the polyhedral inclusion body mixture is mixed with the copolymer slurry described in Example 2 (56.6 g), Blancophor BBH (14.70 g), talc (3.21 g), charcoal (9.0 g), a solution of Calcofluor M2R (3.30 g) in water, and water to obtain a slurry. The slurry is filtered through an 80 mesh screen and spray dried using a Büchi spray drier (model 190) to obtain the coated pesticidal matrix identified as composition 33 in Table VII.

reactant | ammonium hydroxide | 15.0 g, pH 9.5 | [OH-].[NH4+]
reactant | sodium | [Na] | Na
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | Blancophor BBH | 14.70 g | C1COCCN1C2=NC(=NC(=N2)NC3=CC(=C(C=C3)/C=C/C4=C(C=C(C=C4)NC5=NC(=NC(=N5)NC6=CC=CC=C6)N7CCOCC7)S(=O)(=O)[O-])S(=O)(=O)[O-])NC8=CC=CC=C8.[Na+].[Na+]
reactant | charcoal | 9.0 g | C | CH4
reactant | water | O | H2O
product | Calcofluor M2R | 3.30 g | C1=CC=C(C=C1)NC2=NC(=NC(=N2)N(CCO)CCO)NC3=CC(=C(C=C3)/C=C/C4=C(C=C(C=C4)NC5=NC(=NC(=N5)NC6=CC=CC=C6)N(CCO)CCO)S(=O)(=O)O)S(=O)(=O)O | C40H44N12O10S2
